US05284847
A mixture of ethyl 3-bis(t-butoxycarbonyl)amino-4-cyano-5-(methylthio)thiophene-2-carboxylate (10 g, 22 mmol), tetrahydrofuran (250 ml) and 4N sodium hydroxide (25 ml) was heated at 50° C. for 16 hours. The mixture was evaporated, and water (50 ml) was added followed by acidification with acetic acid (pH=4) at 0° C. The precipitate was filtered off and dried to afford 7.05 g (99%) of 4-cyano-5-methylthio-3-(t-butoxycarbonylamino)thiophene -2-carboxylic acid. 1H-NMR (DMSO-D6, δ): 1.45 (s, 9H), 2.70 (s, 3H), 9.20 (s, 1H).

reactant | ethyl 3-bis(t-butoxycarbonyl)amino-4-cyano-5-(methylthio)thiophene-2-carboxylate | 22 mmol, 10 g | C(C)(C)(C)OC(=O)N(C1=C(SC(=C1C#N)SC)C(=O)OCC)C(=O)OC(C)(C)C | C19H26N2O6S2
reactant | sodium hydroxide | 4N, 25 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-cyano-5-methylthio-3-(t-butoxycarbonylamino)thiophene -2-carboxylic acid | 7.05 g, 99% | C(#N)C=1C(=C(SC1SC)C(=O)O)NC(=O)OC(C)(C)C | C12H14N2O4S2
